US07138425B2
a) 2-(3-Nitro-4-methoxyphenyl)-5-(3-methyl-4-chlorophenyl)benzoxazole
Prepared by the method of Example 15d), from 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole (200 mg, 0.57 mmol) and 4-chloro-3-methylphenylboronic acid (145 mg, 0.85 mmol) the subtitle compound was obtained (85 mg, 25%). MS 395 m/z (M+H)+.

reactant | 2-(3-nitro-4-methoxyphenyl)-5-bromobenzoxazole | 0.57 mmol, 200 mg | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)Br | C14H9BrN2O4
reactant | 4-chloro-3-methylphenylboronic acid | 0.85 mmol, 145 mg | ClC1=C(C=C(C=C1)B(O)O)C | C7H8BClO2
product | 2-(3-Nitro-4-methoxyphenyl)-5-(3-methyl-4-chlorophenyl)benzoxazole | [N+](=O)([O-])C=1C=C(C=CC1OC)C=1OC2=C(N1)C=C(C=C2)C2=CC(=C(C=C2)Cl)C | C21H15ClN2O4
